US04683228
A solution of 3-nitropyrazole (22.6 g.) in dry DMF (25 ml.) was added dropwise over 30 minutes to a suspension of sodium hydride (5.28 g.) in dry DMF (50 ml.) at 0°. The mixture was stirred for 30 minutes, ethyl 3-bromopropionate (36.8 g.) was added over 10 minutes, the mixture was kept at -15° for 17 hours and then allowed to warm to 20°. Water (550 ml.) was added, the solution was extracted with EtOAc (4×100 ml.) and the combined extracts were dried (MgSO4) and evaporated in vacuo to an oil. Fractionation on a silica medium pressure liquid chromatography column eluted with EtOAc/petrol (b.p.60°-80°) 1:1 v/v gave ethyl 3-(3-nitropyrazol-1-yl)propionate (19.2 g.) as a low melting solid. The n.m.r. spectrum in CDCl3 included the following resonances: 7 6 (d, 1H); 6.85 (d, 1H); 4.5 (t, 2H); 4.1 (q, 2H); 2.95 (t, 2H); 1.2 (t, 3H).

reactant | 3-nitropyrazole | 22.6 g | [N+](=O)([O-])C1=NNC=C1 | C3H3N3O2
reactant | sodium hydride | 5.28 g | [H-].[Na+]
reactant | ethyl 3-bromopropionate | 36.8 g | BrCCC(=O)OCC | C5H9BrO2
reactant | Water | 550 ml | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | ethyl 3-(3-nitropyrazol-1-yl)propionate | 19.2 g | [N+](=O)([O-])C1=NN(C=C1)CCC(=O)OCC | C8H11N3O4
